Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Zocor / ibuprofen / sulfamethoxazole
 
Attending: ___.
 
Chief Complaint:
Nonhealing right first toe amputation site
 
Major Surgical or Invasive Procedure:
___: RLE Angiogram with SFA stent placement via L groin 
access site (vascular surgery)
PROCEDURES PERFORMED:
1.  Real-time ultrasound-guided access to left common femoral
artery and placement of ___ sheath.
2.  Selective catheterization of the superficial femoral
artery a third order vessel.
3.  Right lower extremity angiogram.
4.  A 6 x ___ Innova stent placed in the superficial femoral
artery.
5.  AngioSeal.

___: Right first metatarsal head resection (podiatry)

 
History of Present Illness:
This is an ___ male who had previously undergone a 
tibioperoneal trunk angioplasty and an SFA popliteal angioplasty 
in ___ when he presented with
gangrene of his right first toe.  He subsequently underwent 
amputation and he has continued to have ulceration at the distal 
portion of the amputation site.  He had noninvasive that showed 
a 2.5 step-up ion the SFA and a step-up at the TP trunk.
 
Past Medical History:
1.  Atrial fibrillation, on Coumadin.
2.  GERD.
3.  ___ MI status post PCI in ___.
4.  Hypertension.
5.  Hyperlipidemia.
6.  Iron deficient anemia.
7.  BPH.
8.  Type 2 DM

Past Surgical History:
___ R hallux amp revision (pods)  
___ RLE angiogram, PTA distal SFA, TP trunk, and ___  
___ right first toe amp open  
 
 
Social History:
___
Family History:
Noncontributory for type 2 diabetes. 
Reportedly, his father had high blood pressure and coronary 
artery disease.
 
Physical Exam:
Physical Exam on Discharge:
Vitals:WNL
GEN: WD, WN in NAD
HEENT: NCAT
CV: RRR 
PULM:  no respiratory distress
ABD: soft, NT, ND
EXT: WWP 
Right lower extremity: s/p right ___ MT head resection; healing 
appropriately
Pulse Exam: L //D/D, R //D/D 
 
Pertinent Results:
COAGULATION LABS
___ 05:15AM BLOOD ___ PTT-32.0 ___
___ 04:50AM BLOOD ___ PTT-31.6 ___
___ 10:45AM BLOOD ___ PTT-31.6 ___

OTHER LABS
___ 05:15AM BLOOD WBC-7.6 RBC-3.13* Hgb-7.9* Hct-26.3* 
MCV-84 MCH-25.2* MCHC-30.0* RDW-17.7* RDWSD-54.2* Plt ___
___ 05:15AM BLOOD Glucose-327* UreaN-26* Creat-1.2 Na-142 
K-4.5 Cl-106 HCO3-24 AnGap-12
___ 04:50AM BLOOD Glucose-258* UreaN-23* Creat-1.1 Na-143 
K-4.7 Cl-106 HCO3-27 AnGap-10
___ 06:56AM BLOOD Glucose-212* UreaN-32* Creat-1.1 Na-140 
K-4.6 Cl-104 HCO3-25 AnGap-11
___ 05:15AM BLOOD Calcium-8.1* Phos-2.3* Mg-1.7

IMAGING
___ FOOT XR:
FINDINGS: There has been further amputation of the great toe 
through the mid first metatarsal.  Overlying bandage, soft 
tissue swelling and soft tissue gas reflects postop status.  
There has been prior resection of the second ray through the 
proximal phalangeal midshaft.  No bony destructive changes. 
IMPRESSION: As above.

MICROBIOLOGY
___ 1:00 pm TISSUE      RIGHT FOOT FIRST METATARSAL HEAD. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
 
Brief Hospital Course:
Mr. ___ presented to ___ to address his non-healing right 
first toe amputation site. On ___, he underwent a right lower 
extremity angiogram with superficial femoral artery stent 
placement via a left groin access site. The procedure was 
uncomplicated; please see the operative note by Dr. ___ 
full details. He tolerated the procedure well and was brought to 
the PACU in good condition and subsequently transferred to the 
surgical floor. He then went to the operating room with the 
podiatry team on the following day, ___, for resection of the 
nonhealing area of the right first metatarsal head. 
Post-operative foot x-ray, microbiology, and labs were 
reassuring. He again tolerated this procedure well and was 
brought to the surgical floor in good condition. His Coumadin 
was restarted on ___ and Plavix for his lower extremity stent 
was begun on ___. Other home medications were continued through 
his hospital course. On ___, he was evaluated by physical 
therapy and recommended for rehab placement given the continued 
need for teaching on use of the heel weightbearing surgical 
shoe. Initially, Mr. ___ adamantly declined to go to a 
rehab facility and stated that he would only be willing to go 
home. In light of this, the vascular surgery team came to the 
bedside in the early afternoon of ___ to help determine his 
capacity to decline rehab. At that time he did not appear to 
have capacity to fully understand his treatment instructions and 
consequences of declining rehabilitation, and was felt to be 
making some comments that exhibited poor understanding (for 
instance, stating that his surgical team was "not very good 
engineers") and perseverating on lost items which were later 
clarified by family members to have been lost during a previous 
admission several months ago. At this time the patient 
repeatedly insisted he was planning to leave the hospital, 
including potentially by himself, and would not discuss his 
plans to get home with the surgical team in any detail. The 
surgical team then spoke with family members to ask for 
assistance in discussing treatment options with the patient, and 
psychiatry was consulted for a formal evaluation of the 
patient's capacity to leave against medical advice and decline 
discharge to a ___ facility. Later in the afternoon, 
the patient changed his mind and at the time of psychiatric 
evaluation was no longer asking to leave against medical advice. 
His family arrived at bedside and with their encouragement on 
the evening of ___ he agreed to be discharged to a 
rehabilitation facility.

On ___, discharge to rehabilitation was arranged. The patient 
remained hemodynamically stable and afebrile. He was able to 
tolerate a regular diet, pain was well-controlled on oral 
medications, and foot dressing and heel weightbearing surgical 
shoe were in place. Discharge instructions were discussed with 
the patient prior to discharge.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metoprolol Succinate XL 125 mg PO DAILY 
2. Warfarin 5 mg PO 2X/WEEK (MO,TH) 
3. Rosuvastatin Calcium 5 mg PO QPM 
4. Glargine 10 Units Bedtime
Humalog 5 Units Breakfast
Humalog 6 Units Lunch
Humalog 5 Units Dinner
5. Aspirin 81 mg PO DAILY 
6. Warfarin 2.5 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID pain  
2.  Clopidogrel 75 mg PO DAILY Duration: 30 Days 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*6 Tablet Refills:*0 
4.  Glargine 10 Units Bedtime
Humalog 5 Units Breakfast
Humalog 6 Units Lunch
Humalog 5 Units Dinner 
5.  Aspirin 81 mg PO DAILY  
6.  Metoprolol Succinate XL 125 mg PO DAILY  
7.  Rosuvastatin Calcium 5 mg PO QPM  
8.  Warfarin 2.5 mg PO 5X/WEEK (___)  
9.  Warfarin 5 mg PO 2X/WEEK (MO,TH)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Nonhealing first toe amputation site ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires heel weight-bearing 
surgical shoe

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  During your hospitalization, you had an 
angiogram and stent placement to improve blood flow to your 
right leg as well as surgery to remove unhealthy tissue at the 
previous amputation site on your lower extremity.  You tolerated 
the procedure well and are now ready to be discharged from the 
hospital and go to rehab to continue regaining strength and 
completing teaching on how to use your post-surgical heel 
weightbearing shoe.  Please follow the recommendations below to 
ensure a speedy and uneventful recovery.

DISCHARGE INSTRUCTIONS
GROIN PUNCTURE SITE CARE
For one week:
Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
Use only mild soap and water to gently clean the area around 
the puncture site. 
Gently pat the puncture site dry after showering. 
Do not use powders, lotions, or ointments in the area of the 
puncture site. 
You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away in one-two weeks. 

ACTIVITY 
You should keep your surgical site elevated. This will prevent 
swelling of the tissue.
It is very important that you put no weight or pressure on 
your first toe and metatarsal region with activity or at rest to 
allow the wound to heal properly. 
You may use the opposite foot for transfers and pivots, if 
applicable.  It will take time to learn to use the heel 
weightbearing shoe. 
Because of your groin puncture site, for the first week:
Do not lift, push , pull or carry anything heavier than 10 
pounds
Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.

MEDICATION
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
You may be prescribed narcotic pain medication on discharge 
which  can be very constipating.  If you take narcotics,  please 
also take a stool softener such as Colace.   If constipation 
becomes a problem, your pharmacist can suggest an additional 
over the counter laxative. 

You should take Tylenol ___ every 6 hours, as needed for 
pain.  If this is not enough, take your prescription narcotic 
pain medication.  You should require less pain medication each 
day.  Do not take more than a daily total of 3000mg of Tylenol.  
Tylenol is used as an ingredient in some other over-the-counter 
and prescription medications.  Be aware of how much Tylenol you 
are taking in a day.

BATHING/SHOWERING: 
You may shower when you feel strong enough but no tub baths or 
pools until you have permission from your surgeon and the 
incision is fully healed.
After your shower, gently dry the incision well.   Do not rub 
the area. 

WOUND CARE:
Please keep the wound clean and dry. It is very important that 
there is no pressure on wound.    If there is no drainage, you 
may leave the incision open to air.  
Any staples or sutures that require removal will be removed by 
your podiatrist at your follow-up appointment. 

CALL THE OFFICE FOR: ___
Opening, bleeding or drainage or odor from your toe surgical 
site
Redness, swelling or warmth in your foot
Fever greater than 101 degrees, chills, or worsening 
incisional/surgical site pain
Call ___ in an emergency such as:
Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
Any change in sensation or temperature in your legs
Fever of 101 or greater
Any questions or concerns about recovery from your angiogram 

It was our pleasure taking care of you and we wish you a speedy 
recovery!
 
Followup Instructions:
___